US06194487B1
Next, the 1,4-butanedisulfonyl chloride vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 15 minutes. Consequently, 1,4-butanedisulfonyl chloride condensed on the surface of the base particles. A polymerization reaction, using as a catalyst triethylamine contained in the base particles, took place between 1,4-butanedisulfonyl chloride condensed on the surface of the base particles and 6-amino-2-mercaptobenzothiazole contained therein, forming a film of 6-amino-2-mercaptobenzothiazole-1,4-butanedisulfonyl chloride co-polymer on the surface of the base particles.

reactant | 1,4-butanedisulfonyl chloride | C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl | C4H8Cl2O4S2
reactant | 6-amino-2-mercaptobenzothiazole | NC1=CC2=C(N=C(S2)S)C=C1 | C7H6N2S2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-amino-2-mercaptobenzothiazole 1,4-butanedisulfonyl chloride | NC1=CC2=C(N=C(S2)S)C=C1.C(CCCS(=O)(=O)Cl)S(=O)(=O)Cl | InChI=1S/C7H6N2S2.C4H8Cl2O4S2/c8-4-1-2-5-6(3-4)11-7(10)9-5;5-11(7,8)3-1-2-4-12(6,9)10/h1-3H,8H2,(H,9,10);1-4H2
